US07385059B2
An aqueous solution of sodium nitrite (760 mg) in 2 ml of water was added drop wise to a stirred suspension of 4-amino-1H-pyrazole-3-carboxylic acid phenylamide (2 g; 10 mmol) in concentrated hydrochloric acid (20 ml) at 0° C., then stirred at 0° C. for a further 60 minutes. The reaction mixture was diluted with acetone (10 ml) then treated with potassium iodide (1.8 g) and copper (I) iodide (2.1 g) and stirred at room temperature for 90 minutes. The reaction mixture was diluted with brine and ethyl acetate then washed with saturated sodium thiosulphate solution. The ethyl acetate layer was separated, dried (MgSO4), filtered and evaporated to give 680 mg of 4-iodo-1H-pyrazole-3-carboxylic acid phenylamide.

reactant | sodium nitrite | 760 mg | N(=O)[O-].[Na+]
reactant | 4-amino-1H-pyrazole-3-carboxylic acid phenylamide | 10 mmol, 2 g | C1(=CC=CC=C1)NC(=O)C1=NNC=C1N | C10H10N4O
reactant | potassium iodide | 1.8 g | [I-].[K+]
solvent | water | 2 ml | O | H2O
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 2.1 g | [Cu]I
product | 4-iodo-1H-pyrazole-3-carboxylic acid phenylamide | 680 mg | C1(=CC=CC=C1)NC(=O)C1=NNC=C1I | C10H8IN3O
